US07141583B2
(5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-azidomethyloxazolidin-2-one
Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester (8 g, 19.7 mmol) and sodium azide (4 g, 61.5 mmol) were heated in N,N-dimethylformamide (75 ml) at 80° C. for 2 hours. It was cooled to room temperature, diluted with ethyl acetate, washed with potassium phosphate buffer (pH 7) and with water and dried over sodium sulfate. After evaporation of the solvent the title product was obtained as a brown oil (˜7 g, crude).

reactant | Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester | 19.7 mmol, 8 g | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H18FNO5S2
reactant | sodium azide | 61.5 mmol, 4 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-azidomethyloxazolidin-2-one | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C15H15FN4O2S
